US08623857B2
To a solution of 2,3-difluoronitrobenzene (5.0 g, 31 mmol) in EtOH (25 mL) were added tert-butyl piperidin-4-ylmethylcarbamate (8.1 g, 38 mmol), and N,N-diisopropylethylamine (6.6 mL, 38 mmol). The reaction was irradiated to 110° C. for 20 min by microwave. The crude reaction mixture was diluted with EtOAc, washed with 1 N HCl and brine, dried over MgSO4 and concentrated to yield nitrobenzene Int-2a (11.2 g, 99%) as yellow crystals. The crude product was used without further purification.

reactant | 2,3-difluoronitrobenzene | 31 mmol, 5.0 g | FC1=C(C=CC=C1F)[N+](=O)[O-] | C6H3F2NO2
reactant | tert-butyl piperidin-4-ylmethylcarbamate | 38 mmol, 8.1 g | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | N,N-diisopropylethylamine | 38 mmol, 6.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
